US07977358B2
A] 2-Cyclopropanecarbonyl-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-oxo-butyric acid ethyl ester
In analogy to the procedure described in Example 160A], 3-cyclopropyl-3-oxo-propionic acid ethyl ester and (1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetyl chloride gave the title compound as a white solid (60%). MS: 342.1 (M−H−).

reactant | 3-cyclopropyl-3-oxo-propionic acid ethyl ester | C(C)OC(CC(=O)C1CC1)=O | C8H12O3
reactant | (1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetyl chloride | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)Cl | C10H6ClNO3
product | 2-Cyclopropanecarbonyl-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-oxo-butyric acid ethyl ester | 60% | C(C)OC(C(C(CN1C(C2=CC=CC=C2C1=O)=O)=O)C(=O)C1CC1)=O | C18H17NO6
